US06949648B2
4-Ethyl-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
To an ice-cold solution of 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (2.95 g, 10.0 mmol) in tetrahydrofuran (100 mL), a solution of 3M ethylmagnesium bromide in diethyl ether (4.00 mL, 12.0 mmol) was added dropwise under an argon atmosphere, and the solution was stirred at the same temperature for 1 hour. The reaction mixture was poured into iced water, and the organic matter was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvents were evaporated under reduced pressure. The residue thus obtained was purified by basic silica gel column chromatography (hexane:ethyl acetate=2:1) to give the title compound (0.33 g, 11% yield).

reactant | 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 10.0 mmol, 2.95 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C16H11ClN4
reactant | ethylmagnesium bromide | 3M | C(C)[Mg]Br
reactant | diethyl ether | 12.0 mmol, 4.00 mL | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-Ethyl-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 0.33 g, 11% yield | C(C)C1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C18H16N4
